US08012985B2
5,5-dimethyl-2-methylsulphanyl-3,4,5,6-tetrahydropyrimidinium hydroiodide
The reaction mixture comprising one equivalent of 5,5-dimethyl-3,4,5,6-tetrahydro(1H)pyrimidine-2-thione and 1.2 equivalents of iodomethane in methanol (10 ml/g of thio-urea) is heated under reflux for 5 hours. After cooling down, the methanol is evaporated off under reduced pressure in order to quantitatively produce the product. The precipitate can then be washed in acetone or petroleum ether.

reactant | 5,5-dimethyl-3,4,5,6-tetrahydro(1H)pyrimidine-2-thione | one equivalent | CC1(CNC(NC1)=S)C | C6H12N2S
reactant | iodomethane | 1.2 equivalents | IC | CH3I
solvent | methanol | CO | CH4O
product | 5,5-dimethyl-2-methylsulphanyl-3,4,5,6-tetrahydropyrimidinium hydroiodide | I.CC1(CNC(=[NH+]C1)SC)C | InChI=1S/C7H14N2S.HI/c1-7(2)4-8-6(10-3)9-5-7;/h4-5H2,1-3H3,(H,8,9);1H/p+1
